US05550152
A. 7-Carbomethoxy-benzopyran-4-one
To a stirred solution of 7-trifluoromethylsulfonyloxy-benzopyran-4-one (7.89 g, 26.6 mmole) in DMF (54 ml) was added methanol (21.6 ml), palladium acetate (110 mg, 0.533 mmole), DPPF (590 mg, 1,066 mmole) and triethylamine (7.477 ml, 53.3 mmole). Carbon monoxide gas was bubbled through the solution for 5 minutes, and the mixture was stirred at 50° C. for 3 hours under 1 atmosphere of CO. After cooling, the mixture was poured into 120 ml of 1M sulfuric acid and extracted with 2×75 ml of ethylacetate. The combined organic fractions were washed with brine, dried over MgSO4, and filtered. Solvent evaporation in vacuo and chromatography (silica gel 1:1 hexane:ether) gave 5.19 g of the title compound (94% yield).

reactant | 7-trifluoromethylsulfonyloxy-benzopyran-4-one | 26.6 mmole, 7.89 g | FC(S(=O)(=O)OC1=CC2=C(C(C=CO2)=O)C=C1)(F)F | C10H5F3O5S
reactant | methanol | 21.6 ml | CO | CH4O
reactant | triethylamine | 53.3 mmole, 7.477 ml | C(C)N(CC)CC | C6H15N
reactant | DMF | 54 ml | CN(C)C=O | C3H7NO
catalyst | palladium acetate | 0.533 mmole, 110 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | DPPF | 1,066 mmole, 590 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.[Fe+2]
product | 7-Carbomethoxy-benzopyran-4-one | 5.19 g, 94% yield | C(=O)(OC)C1=CC2=C(C(C=CO2)=O)C=C1 | C11H8O4
